US06743814B2
150 g of methyl 2-chloroacetoacetate and 180 g of urea were dissolved in 600 ml of methanol and refluxed for 36 hours. After cooling, the deposited crystals were filtered, suspended in 2N sodium hydroxide solution and extracted with ethyl acetate. After washing with water and drying with anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was recrystallized from acetonitrile to obtain 10 g of 2-amino-5-methoxycarbonyl-4-methyloxazole. mp. 199-201° C. (point of decomposition).

reactant | methyl 2-chloroacetoacetate | 150 g | ClC(C(=O)OC)C(=O)C | C5H7ClO3
reactant | urea | 180 g | NC(=O)N | CH4N2O
solvent | methanol | 600 ml | CO | CH4O
product | 2-amino-5-methoxycarbonyl-4-methyloxazole | 10 g | NC=1OC(=C(N1)C)C(=O)OC | C6H8N2O3
